US08017792B2
A suspension of 2-bromo-5-chlorophenol (2.85 g, 13.7 mmol; synthesized in reference to International Patent Publication WO0109122), potassium carbonate (1.89 g, 13.7 mmol), n-Bu4NI (50 mg, 0.137 mmol), methyl iodide (1.28 mL, 20.6 mmol) and N,N-dimethylformamide (8.0 mL) was stirred for two hours. An iced water was added and the obtained mixture was extracted with ethyl acetate twice. The combined organic phase was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=95:5) to obtain colorless oily 2-bromo-5-chloroanisole (2.94 g, 97%). Then, oxalyl chloride (1.23 mL, 15.1 mmol) and N,N-dimethylformamide (2 drops) were added to 4-ethoxybenzoic acid (2.28 g, 13.7 mmol) in chloroform (8 mL) and stirred for five hours. The yellow oil obtained by evaporating the solvent under reduced pressure was dissolved in chloroform (5 mL). To this solution, a chloroform solution (10 mL) of 2-bromo-5-chloroanisole (2.94 g, 13.3 mmol) was added and then aluminum chloride (2.07 g, 15.5 mmol) was added portion wise at −10° C. over five minutes. After stirred at 5° C. for one hour, the reaction mixture was to room temperature and stirred for 13 hours. The reaction mixture was poured into an iced water and extracted with chloroform three times. After washed with 1 M hydrochloric acid, water, brine, the combined organic layer was dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by NH type silica gel column chromatography (hexane:ethyl acetate=9:1) to obtain (5-bromo-2-chloro-6-methoxyphenyl)(4-ethoxyphenyl)methanone (1.53 g, 31%) as a colorless crystal.

reactant | oxalyl chloride | 15.1 mmol, 1.23 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-ethoxybenzoic acid | 13.7 mmol, 2.28 g | C(C)OC1=CC=C(C(=O)O)C=C1 | C9H10O3
reactant | 2-bromo-5-chloroanisole | 13.3 mmol, 2.94 g | BrC1=C(C=C(C=C1)Cl)OC | C7H6BrClO
reactant | aluminum chloride | 15.5 mmol, 2.07 g | [Cl-].[Al+3].[Cl-].[Cl-]
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | (5-bromo-2-chloro-6-methoxyphenyl)(4-ethoxyphenyl)methanone | 1.53 g, 31% | BrC=1C=CC(=C(C1OC)C(=O)C1=CC=C(C=C1)OCC)Cl | C16H14BrClO3
